US05973148
12. Preparation of N-(2,6-Dichlorophenyl)-7,8-dichloro-[1,2,4]triazolo[1.5-c]pyrimidine-2-sulfonamide Using Unrecovered Sulfilimine Catalyst
A solution of 0.6 mL (8 mmol) of dimethyl sulfide in 65 mL of dichloromethane was cooled to -20° C. and then 0.4 g (6 mmol) of chlorine was slowly sparged in with stirring and cooling to maintain the temperature below -15° C. A mixture of 5.0 g (31 mmol) of 2,6-dichloroaniline and 6.3 g (49 mmol) of quinoline was then added with cooling and stirring to form a mixture of the sulfilimine catalyst, unreacted 2,6-dichloroaniline, and quinoline. The mixture was allowed to warm to 0° C. and 10 g (45 mmol) of 2-chlorosulfonyl-7,8-dichloro[1,2,4]triazolo[1,5-c]pyrimidine was added with stirring and cooling. The mixture was allowed to warm to about 20° C. and stir for about 16 hours. It was then diluted with 50 mL of methanol and the solids that formed were collected by filtration, washed 2×30 mL with methanol, and dried to obtain 6.2 g (80 percent of theory) of the title compound as a white solid having uv maxima at 210 and 270 nm.

reactant | dimethyl sulfide | 8 mmol, 0.6 mL | CSC | C2H6S
reactant | chlorine | 6 mmol, 0.4 g | ClCl | Cl2
reactant | 2,6-dichloroaniline | 31 mmol, 5.0 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | quinoline | 49 mmol, 6.3 g | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 2-chlorosulfonyl-7,8-dichloro[1,2,4]triazolo[1,5-c]pyrimidine | 45 mmol, 10 g | ClS(=O)(=O)C1=NN2C=NC(=C(C2=N1)Cl)Cl | C5HCl3N4O2S
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
catalyst | sulfilimine | [SH2]=N | H3NS
solvent | methanol | 50 mL | CO | CH4O
product | N-(2,6-Dichlorophenyl)-7,8-dichloro-[1,2,4]triazolo[1.5-c]pyrimidine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C=NC(=C(C2=N1)Cl)Cl | C11H5Cl4N5O2S
